US06787536B2
4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yloxy]piperidine-1-sulfonylmethyl}-3-methylbutyryl)-oxazolidin-2-one
Prepared according to the-method for the preparation of 2-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester, from 5-(4-fluorophenyl)-2-(piperidin-4-yloxy)pyridine (0.52 g) and 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one (0.57 g) to yield the title compound as an off-white solid (0.70 g, 58%).

reactant | 2-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br)=O | C20H31BrN2O4S
reactant | 5-(4-fluorophenyl)-2-(piperidin-4-yloxy)pyridine | 0.52 g | FC1=CC=C(C=C1)C=1C=CC(=NC1)OC1CCNCC1 | C16H17FN2O
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one | 0.57 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
product | 4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yloxy]piperidine-1-sulfonylmethyl}-3-methylbutyryl)-oxazolidin-2-one | 0.70 g, 58% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCC(CC1)OC1=NC=C(C=C1)C1=CC=C(C=C1)F)=O | C32H36FN3O6S
